US07348348B2
Step A: Preparation of 4-formyl-(2′-chloro-1,1′-biphenyl)
To a solution of 2-bromochlorobenzene (0.24 mL, 2 mmol) and 4-formylbenzeneboronic acid (0.35 g, 2.2 mmol) in toluene (20 mL) were added 2M aq. sodium carbonate (2.6 mL) followed by (Ph3P)4Pd (0.34 g, 0.3 mmol). The resulting reaction mixture was refluxed for 3 h, cooled and diluted ethyl acetate. The organic phase was washed with water, saturated aq. sodium bicarbonate, brine and dried over sodium sulfate. The filtrate was concentrated in vacuo and the residue obtained was purified by chromatography (hexane:ethyl acetate; 4:1) to yield the title product.

reactant | 2-bromochlorobenzene | 2 mmol, 0.24 mL | BrC1=C(C=CC=C1)Cl | C6H4BrCl
reactant | 4-formylbenzeneboronic acid | 2.2 mmol, 0.35 g | C(=O)C1=CC=C(C=C1)B(O)O | C7H7BO3
reactant | sodium carbonate | 2M, 2.6 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
catalyst | (Ph3P)4Pd | 0.3 mmol, 0.34 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-formyl-(2′-chloro-1,1′-biphenyl) | C(=O)C1=CC=C(C=C1)C1=C(C=CC=C1)Cl | C13H9ClO
